US07872028B2
Step 2. Lithium 2-(3-((3-methoxypropoxy)(phenyl)methyl)piperidin-1-yl)acetate
Methyl 2-(3-((3-methoxypropoxy)(phenyl)methyl)piperidin-1-yl)acetate (19 mg, 0.0567 mmol) was mixed with a 1:1 mixture of 2 N aq LiOH (2 mL) and methanol (2 mL). The mixture was stirred overnight at r.t. LC-MS indicated the reaction was complete. The mixture was concentrated and the crude product was used without purification. LC-MS (3 min) tR=1.05 min, m/z 322 (M+1).

reactant | Methyl 2-(3-((3-methoxypropoxy)(phenyl)methyl)piperidin-1-yl)acetate | 0.0567 mmol, 19 mg | COCCCOC(C1CN(CCC1)CC(=O)OC)C1=CC=CC=C1 | C19H29NO4
reactant | LiOH | 2 N, 2 mL | [Li+].[OH-]
solvent | methanol | 2 mL | CO | CH4O
product | Lithium 2-(3-((3-methoxypropoxy)(phenyl)methyl)piperidin-1-yl)acetate | COCCCOC(C1CN(CCC1)CC(=O)[O-])C1=CC=CC=C1.[Li+] | InChI=1S/C18H27NO4.Li/c1-22-11-6-12-23-18(15-7-3-2-4-8-15)16-9-5-10-19(13-16)14-17(20)21;/h2-4,7-8,16,18H,5-6,9-14H2,1H3,(H,20,21);/q;+1/p-1
